US08536214B2
(S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)-2-chlorobenzenesulfonamide
(S)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.064 mmol, 20 mg) was dissolved in tetrahydrofuran (1 mL) and triethylamine (0.128 mmol, 17.8 μL) followed by 2-chlorobenzenesulfonyl chloride (0.064 mmol, 13.6 mg) and the solution stirred at room temperature overnight. The reaction was concentrated to dryness to give a brown residue which was dissolved in DMSO (1 mL) and purified on preparative basic HPLC to give the title compound (17.4 mg, 0.036 mmol, 56.0%) MS (ESI): m/z [M−H]− 484.5.

reactant | (S)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.064 mmol, 20 mg | N[C@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.128 mmol, 17.8 μL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzenesulfonyl chloride | 0.064 mmol, 13.6 mg | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)-2-chlorobenzenesulfonamide | 0.036 mmol, 17.4 mg, 56.0% | OCC=1C(=NN(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C1=C(C=CC=C1)Cl)C(F)(F)F | C21H19ClF3N3O3S
